US04830660
Synthesis of 5-amino-4-ethoxycarbonyl-1-(1,3,4-thiadiazol-2-yl)imidazole
The desired compound was synthesized following the procedures described in Reference Example 7 by using ethyl α-aminocyanoacetate, ethyl orthoformate and 2-amino-1,3,4-thiadiazole as raw materials. m.p.: 181° to 183° C.

reactant | ethyl α-aminocyanoacetate | NC(C(=O)OCC)C#N | C5H8N2O2
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
reactant | 2-amino-1,3,4-thiadiazole | NC=1SC=NN1 | C2H3N3S
product | 5-amino-4-ethoxycarbonyl-1-(1,3,4-thiadiazol-2-yl)imidazole | NC1=C(N=CN1C=1SC=NN1)C(=O)OCC | C8H9N5O2S
